US05703106
To a solution of 5-(4-methylphenyl)-isoxazole (17 g) and N-bromosuccinimide (19 g) in tetrachloromethane (500 ml) under nitrogen, bisbenzoyl peroxide (0.43 g) is added, and the mixture heated on reflux over night. The solvent is evaporated, and the residue purified by flash chromatography (silica gel, hexane/ethyl acetate 4:1) to give pure 5-(4- bromomethylphenyl)-isoxazole.

reactant | 5-(4-methylphenyl)-isoxazole | 17 g | CC1=CC=C(C=C1)C1=CC=NO1 | C10H9NO
reactant | N-bromosuccinimide | 19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | bisbenzoyl peroxide | 0.43 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 500 ml | ClC(Cl)(Cl)Cl | CCl4
product | 5-(4- bromomethylphenyl)-isoxazole | BrCC1=CC=C(C=C1)C1=CC=NO1 | C10H8BrNO
